Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
s/p fall 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ is a ___ female on aspirin and ___ who presents to
___ on ___ with a mild TBI. She reports that 
she
was out for a walk and tripped and fell, striking her face.  No
LOC. She has memory of the fall and denies dizziness or
pre-syncopal prodrome. She complains of headache but denies n/v,
weakness or paresthesias.  She also complains of pain and 
limited
ROM of the left shoulder. ___ at ___ showed falcine SDH; she
was evaluated by neurosurgery there who recommended transfer to
___.

                       
                                                 

 
Past Medical History:
DJD of right knee
HLD
macular degeneration
Toxic multinodular goiter 
Urinary retention
Appy
R knee replacement
R hip replacement
Stroke ___-  no deficits
 
Social History:
___
Family History:
Family Hx: NC

 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
T: 98.1  BP:  132/76   HR: 68  RR: 18 O2 Sat: 95%RA

GCS at the scene: 15

GCS upon Neurosurgery Evaluation: 15  Time of evaluation: 0325

Airway: [ ]Intubated   [x]Not intubated

Eye Opening: 
 [ ]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [ ]3 Opens eyes to voice
 [x]4 Opens eyes spontaneously

Verbal:
 [ ]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [ ]4 Confused, disoriented
 [x]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [x]6 Obeys commands

Exam:

Gen: WD/WN, comfortable, NAD.
HEENT: L forehead laceration, periorbital edema/ecchymosis
Neck: supple
Extrem: warm and well perfused

Neuro:

Mental Status: Awake, alert, cooperative with exam, normal
affect.

Orientation: Oriented to person, place, and date.

Language: Speech is fluent with good comprehension. 

Cranial Nerves:
I: Not tested
II: R pupil 4mm-3mm. Unable to assess L due to swelling
III, IV, VI: Extraocular movement intact on R.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: 
Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength ___ left deltoid, 4+/5 L tricep, otherwise 
full
power ___ throughout. UTA  pronator drift

Sensation: Intact to light touch

PHYSICAL EXAMINATION ON DISCHARGE:
Opens eyes: [x]R spontaneous [ ]to voice [ ]to noxious -Left eye
swollen shut; ecchymosis 

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  Right 3-2mm; ecchymotic     Left 3-2mm; ecchymotic 

EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No

Pronator Drift: [ ]Yes [x]No     Speech Fluent: [x]Yes [ ]No

Comprehension intact: [x]Yes [ ]No

Motor:
TrapDeltoid BicepTricepGrip
Right 5         5     5         5      5
Left 5         3     4+        4      4+

IPQuadHamATEHLGast
Right5        5       5      5        5       5
Left    5        5       5      5        5       5

[x]Sensation intact to light touch

 
Pertinent Results:
Please see OMR for pertinent lab and imaging results. 
 
Brief Hospital Course:
#Left Falcine SDH 
The patient was admitted to the Neurosurgery service on ___ from 
the ED for close neurologic monitoring. Aspirin, ___, and 
fish oil were held on admission. She was admitted to the floor 
for continued monitoring where she remained neurologically and 
hemodynamically stable.  

#Left UE pain
The patient complains of left upper extremity pain. An x-ray of 
the left elbow was performed which was negative for fracture or 
dislocation. 

#Nasal Fractures
Plastic surgery was consulted for treatment of nasal fractures. 
Recommendations were made for nonsurgical treatment and 
outpatient follow-up. 

#Elevated BUN
The patient's BUN rose to 22 and was treated with a 500cc NS 
bolus x1. On the day of discharge this was within normal limits. 


 

 
 
Medications on Admission:
Medications:
Anticoagulants [ ]No [x]Yes 
Name: ___     Dose:  81mg  Last Taken: ___ 
Name: ___      Dose:  75mg  Last Taken: ___

--------------- --------------- --------------- ---------------
aspirin 81 mg tablet oral 1 tablet(s) Once Daily
atorvastatin 40 mg tablet oral 1 tablet(s) , at bedtime
Calcium 600 600 mg calcium (1,500 mg) tablet oral Daily
Vitamin D3 1,000 unit capsule oral 1 capsule(s) Once Daily
clopidogrel 75 mg tablet oral 1 tablet(s) Once Daily
docusate sodium 100 mg capsule oral 1 capsule(s) Once Daily
Fish Oil 1,000 mg (120 mg-180 mg) capsule oral Daily
ibuprofen 200 mg-diphenhydramine HCl 25 mg capsule oral
metoprolol tartrate 25 mg tablet oral 0.5 tablet(s) Twice Daily
Multi Vitamin -- Unknown Strength 1 liquid(s) Once Daily
PreserVision AREDS 2 -- Unknown Strength 1 capsule(s) Twice 
Daily
omeprazole 20 mg capsule,delayed release oral
sertraline 25 mg tablet oral 1 tablet(s) Once Daily 

--------------- --------------- --------------- ---------------

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Bacitracin Ointment 1 Appl TP BID Duration: 3 Days  
3.  OxyCODONE (Immediate Release) 2.5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth Q4H PRN 
Disp #*24 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Second 
Line  
5.  Aspirin 81 mg PO DAILY 
This was held during admission due to your intracranial bleed. 
You may restart it on ___  
6.  Clopidogrel 75 mg PO DAILY 
This was held during admission due to your intracranial bleed. 
You may restart it on ___  
7.  Fish Oil (Omega 3) 1000 mg PO BID 
This was held during admission due to your intracranial bleed. 
You may restart on ___  
8.  Atorvastatin 40 mg PO QPM  
9.  Docusate Sodium 100 mg PO BID  
10.  Metoprolol Tartrate 12.5 mg PO BID  
11.  Multivitamins 1 TAB PO DAILY  
12.  Omeprazole 20 mg PO DAILY  
13.  Sertraline 25 mg PO DAILY  
14.  Vitamin D 1000 UNIT PO DAILY  
15.Outpatient Physical Therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left parafalcine SDH 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires some assistance 

 
Discharge Instructions:
Activity
• We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
• You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
• No driving while taking any narcotic or sedating medication. 
• If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
• No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
• Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, ___, Coumadin) until cleared by the neurosurgeon. 
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
• You may re-start your aspirin on ___. 
• You may re-start your ___ on ___.
• You may re-start your fish oil on ___.

What You ___ Experience:
• You may have difficulty paying attention, concentrating, and 
remembering new information.
• Emotional and/or behavioral difficulties are common. 
• Feeling more tired, restlessness, irritability, and mood 
swings are also common.
• Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
• Headache is one of the most common symptom after a brain 
bleed. 
• Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
• Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
• There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
• Severe pain, swelling, redness or drainage from the incision 
site. 
• Fever greater than 101.5 degrees Fahrenheit
• Nausea and/or vomiting
• Extreme sleepiness and not being able to stay awake
• Severe headaches not relieved by pain relievers
• Seizures
• Any new problems with your vision or ability to speak
• Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
• Sudden numbness or weakness in the face, arm, or leg
• Sudden confusion or trouble speaking or understanding
• Sudden trouble walking, dizziness, or loss of balance or 
coordination
• Sudden severe headaches with no known reason

 
Followup Instructions:
___